US04634704
A mixture of 1.1 parts of isothiocyanatomethane, 6.76 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine and 90 parts of tetrahydrofuran was stirred and refluxed for one week. The reaction mixture was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from methanol, yielding 3.5 parts (44.5%) of N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-methyl-N-(2-thiazolyl)thiourea; mp. 188.5° C. (compound 104).

reactant | isothiocyanatomethane | N(=C=S)C | C2H3NS
reactant | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[2-thiazolylamino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC=2SC=CN2 | C24H27FN6S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-N'-methyl-N-(2-thiazolyl)thiourea | 44.5% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN(C(=S)NC)C=2SC=CN2 | C26H30FN7S2
